US04302466
2,3-Dihydro-2,2-dimethyl-7-benzofuranyl N-(2-ethylsulphinylethoxycarbonyl)-N-methyl-carbamate
2.7 ml of 40% strength hydrogen superoxide were added dropwise to 10.6 g (0.03 mol) of 2,3-dihydro-2,2-dimethyl-7-benzofuranyl N-(2-ethylthioethoxycarbonyl)-N-methyl-carbamate in 40 ml of glacial acetic acid at 0° C. The next day, the mixture was poured into 300 ml of water and extracted with methylene chloride. The solution was neutralized with sodium bicarbonate. After filtration, the organic phase was worked up as described in Example 1. Yield: 11 g of a colorless oil (98% of theory) of nD20 =1.5320.

reactant | 2,3-dihydro-2,2-dimethyl-7-benzofuranyl N-(2-ethylthioethoxycarbonyl)-N-methyl-carbamate | 0.03 mol, 10.6 g | C(C)SCCOC(=O)N(C(OC1=CC=CC=2CC(OC21)(C)C)=O)C | C17H23NO5S
reactant | water | 300 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dihydro-2,2-dimethyl-7-benzofuranyl N-(2-ethylsulphinylethoxycarbonyl)-N-methyl-carbamate | C(C)S(=O)CCOC(=O)N(C(OC1=CC=CC=2CC(OC21)(C)C)=O)C | C17H23NO6S
